US08030499B2
Step 51-1: Synthesis of 4-piperidin-4-yl pyridine
To a solution of 5.00 g of 4,4′-bipyridine in 1 mol/L hydrochloric acid (32 ml) was added 299 mg of platinum oxide, and the reaction mixture was stirred under the conditions of 3.0 atm hydrogen and at 70° C. external temperature. After 3 hours, the solution was under ordinary temperature and ordinary pressure, then, 201 mg of platinum oxide was further added and the reaction was carried out under the conditions of 3.0 atm hydrogen and at 70° C. external temperature. After 4.5 hours, the solution was left to unattended for 16 hours in a state returned to under ordinary temperature and ordinary pressure. MeOH (30 ml) and 483 mg of platinum oxide were further added, and the mixture was stirred under the conditions of 3.0 atm hydrogen and 70° C. external temperature. The solution was stirred for 4 hours, then, filtered with celite, and the solvent of the filtrate was evaporated under reduced pressure. Then, a saturated aqueous solution of NaHCO3 was added to the solution and the resulting mixture was extracted with a mixed solvent of CHCl3:MeOH (10:1). The organic layer was evaporated under reduced pressure. Again, water was added to the solution, extracted with a mixed solvent of CHCl3:MeOH (10:1), and the organic layer was evaporated under reduced pressure. The precipitated solid was washed with water and dried to obtain 390 mg of the title compound (colorless amorphous).

reactant | 4,4′-bipyridine | 5.00 g | N1=CC=C(C=C1)C1=CC=NC=C1 | C10H8N2
reactant | hydrogen | [H][H] | H2
reactant | MeOH | 30 ml | CO | CH4O
solvent | hydrochloric acid | 1 mol/L, 32 ml | Cl | ClH
catalyst | platinum oxide | 299 mg | [Pt]=O
catalyst | platinum oxide | 201 mg | [Pt]=O
catalyst | platinum oxide | 483 mg | [Pt]=O
product | 4-piperidin-4-yl pyridine | 390 mg | N1CCC(CC1)C1=CC=NC=C1 | C10H14N2
